2164-04-02 07:36:00 Physician Resident Progress Note
TITLE:
   CCU Resident Progress Note
   Chief Complaint: chest pain, shortness of breath, transferred after
   cardiac catherization
   24 Hour Events:
 EKG - At [**2164-4-2**] 05:15 AM
   .
   Please see admission note for details. Overnight patient had episode of
   increased work of respiration. Was placed on non-rebreather was
   saturating 100% with respiration 25-30.  ABG obtained. Repeat chest
   x-ray obtained. Official read pending. Looks like may be some worsening
   fluid overload.  Received 40mg IV lasix.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Nitroglycerin - 2.5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2164-4-2**] 05:20 AM
   Furosemide (Lasix) - [**2164-4-2**] 05:30 AM
   Metoprolol - [**2164-4-2**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-4-2**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 85 (85 - 112) bpm
   BP: 95/63(70) {95/57(68) - 149/85(101)} mmHg
   RR: 25 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                     22 mL
                                                                    201 mL
   PO:
             TF:
   IVF:
                                                                     22 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                    106 mL
                                                                  2,146 mL
   Urine:
                                                                    106 mL
                                                                  1,321 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                 -1,945 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.41/39/143/22/0
   Ve: 7.6 L/min
   PaO2 / FiO2: 286
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, face mask
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished),
   present by doppler
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   351 K/uL
   12.0 g/dL
   137 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.2 mEq/L
   31 mg/dL
   103 mEq/L
   141 mEq/L
   34.7 %
   16.9 K/uL
        [image002.jpg]
                             [**2164-4-1**]  09:42 PM
                             [**2164-4-1**]  10:05 PM
                             [**2164-4-2**]  05:32 AM
                             [**2164-4-2**]  05:40 AM
   WBC
   13.9
   16.9
   Hct
   34.6
   34.7
   Plt
   329
   351
   Cr
   1.4
   1.4
   TropT
   1.76
   2.18
   TCO2
   25
   26
   Glucose
   128
   137
   Other labs: PT / PTT / INR:12.9/48.3/1.1, CK / CKMB /
   Troponin-T:1102/50/2.18, ALT / AST:58/138, Alk Phos / T Bili:53/0.8,
   Differential-Neuts:84.7 %, Lymph:11.1 %, Mono:3.2 %, Eos:0.9 %, Lactic
   Acid:1.1 mmol/L, Albumin:4.0 g/dL, LDH:593 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   68 year old male diabetic, former smoker, CAD, hyperlipidemia who
   presents from [**Hospital6 1986**] with large territory NSTEMI. Patient
   is s/p cardiac catherization at [**Hospital3 337**] which demonstrates diffuse
   3 vessel disease, being evaluated for CABG.
   # Acute coronary syndrome - Given large CK leak, this may represent
   large territory NSTEMI vs. STEMI equivalent if LBBB is new and related
   to ischemia.  Echocardiographic areas of hypokinesis at OSH most
   suggestive of LAD territory, which correlates with 90% lesion in LAD
   territory.  LCx and RCA disease may be chronic, though this is
   unclear.  Started on eptifibatide.
   - Cont. eptifibatide, heparin gtt, continue ASA
   - Cont. atorvastatin 80mg
   - start beta blocker given HTN and significant coronary artery disease
   - Consider low-dose ACE if blood pressure is stable, holding for now
   given BP borderline and trying to diurese.
   - Dr. [**First Name (STitle) **] from cardiothoracic surgery aware, and plan to review
   angiography films with team in AM
   - f/u surgery recs regarding plans
   - Trend biomarkers, ECG, telemetry
   # Respiratory failure - Likely CHF as below, however infectious
   etiologies in differential as well given fever and leukocytosis
   (however this could also be [**3-19**] acute MI).  Treating with diuresis,
   holding off on antibiotics as no clear infiltrate on chest x-ray.
   Patient had some respiratory distress overnight, placed on NRB.  CXR
   showed worsening pulm. Edema. Received 40mg IV lasix with good UOP and
   breathing improved.  Resp. status also improved with HR control.
   - Repeat CXR this am
   - Decrease nitro gtt to give more room in BP for diuresis
   - Goal I/O -1-2L with prn lasix
   - consider Levaquin for treatment of community acquired pneumonia if
   clinically suspect
   .
   # PUMP:  Ischemic cardiomyopathy and acute systolic CHF, unclear
   whether he also has chronic component.  Elevated PCWP on cardiac
   catheterization.
   - Diuresis for I/O -1-2L as tolerated by blood pressure
   - cont aspirin, statin, beta blocker
   - Holding ACE-I
   - Repeat echocardiogram in AM
   # Acute renal failure - Unclear baseline. Cr stable at 1.4 today.
   - Obtain records from PCP if able
   - Monitor electrolytes, renally dose medications
   - Cont. to follow
   # RHYTHM:  Sinus rhythm.
   # Diabetes mellitus - holding metformin and giving insulin sliding
   scale while in house
   - diabetic diet
   FEN:  Diabetic diet
   ACCESS: PIV's
   PROPHYLAXIS:  anticoagulated on heparin gtt, bowel regimen
   CODE: Full code
   DISPO: CCU for now
   Contact: [**Name (NI) 2273**] [**Name (NI) 4671**] (wife) [**Telephone/Fax (1) 4672**]
   cell ([**Telephone/Fax (1) 4673**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-4-1**] 09:43 PM
   18 Gauge - [**2164-4-2**] 05:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: